US07767675B2
Step 3: tert-butyl 4-[4-(2-aminopyrimidin-5-yl)-2-fluorophenyl]-1H-pyrazol-1-ylacetate
To a solution of tert-butyl[4-(4-bromo-2-fluorophenyl)-1H-pyrazol-1-yl]acetate (400 mg, 0.001 mol) in 1,4-dioxane (3 mL) was added 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine (270 mg, 1.2 mmol), potassium phosphate (640 mg, 3.0 mmol) and tetrakis(triphenylphosphine)palladium (70 mg, 0.06 mmol). The solution was degassed with N2, and heated at 120° C. for 3 h. The solution was cooled to RT, poured into water, extracted with EtOAc, washed with brine, dried over MgSO4, filtered, and concentrated. The residue was purified by flash chromatograph on a silica gel column with EtOAc in Hexanes (50%) to afford the desired compound. LCMS: (M+H)=370.1.

reactant | tert-butyl[4-(4-bromo-2-fluorophenyl)-1H-pyrazol-1-yl]acetate | 0.001 mol, 400 mg | C(C)(C)(C)OC(CN1N=CC(=C1)C1=C(C=C(C=C1)Br)F)=O | C15H16BrFN2O2
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | 1.2 mmol, 270 mg | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
reactant | potassium phosphate | 3.0 mmol, 640 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.06 mmol, 70 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-[4-(2-aminopyrimidin-5-yl)-2-fluorophenyl]-1H-pyrazol-1-ylacetate | NC1=NC=C(C=N1)C1=CC(=C(C=C1)C=1C=NN(C1)CC(=O)OC(C)(C)C)F | C19H20FN5O2
